US04077982
Using the method of Example 5e, 40.8 g 2-methoxybenzaldehyde and 27.6 g glycerol were reacted to form 5-hydroxy-2-(2-methoxyphenyl)-1,3-dioxane, crude b.p. 150°-155° C/10-5 mm.

reactant | 2-methoxybenzaldehyde | 40.8 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | glycerol | 27.6 g | OCC(O)CO | C3H8O3
product | 5-hydroxy-2-(2-methoxyphenyl)-1,3-dioxane | OC1COC(OC1)C1=C(C=CC=C1)OC | C11H14O4
